US04699905
63(a) N-t-butoxycarbonyl-S-[2-nitro-1-(2-thienyl)ethyl]-L-cysteine
100 g of L-cysteine p-toluenesulfonate, 85.3 g of di-t-butyl pyrocarbonate and 85.3 g of sodium bicarbonate were dissolved in a mixture of 683 ml of dimethylformamide and 137 ml of water. The solution was stirred for 2 hours at 60° C. under a stream of nitrogen. The resulting reaction mixture was then cooled to a temperature of 10°-15° C., and 55 g of 1-nitro-2-(2-thienyl)ethylene and 10.2 g of sodium bicarbonate were added, after which the mixture was stirred for 2 hours at room temperature. At the end of this time, 2 liters of water and 0.8 liter of ethyl acetate were added, with stirring, and the aqueous layer was separated and washed with ethyl acetate. To the washed solution were added ethyl acetate and ice, and the pH of this mixture was adjusted to a value of 3 by carefully adding concentrated hydrochloric acid, whilst stirring. The ethyl acetate layer was then separated and washed with an aqueous solution of sodium chloride; active carbon and anhydrous magnesium sulfate were added, with stirring, and then filtered off. The solvent was evaporated from the organic solution to give 129 g of the title compound as a syrup. This compound was used in the reaction of step (b) without further purification.

reactant | L-cysteine p-toluenesulfonate | 100 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@@H](CS)C(=O)O
reactant | di-t-butyl pyrocarbonate | 85.3 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 85.3 g | C([O-])(O)=O.[Na+]
reactant | 1-nitro-2-(2-thienyl)ethylene | 55 g | [N+](=O)([O-])C=CC=1SC=CC1 | C6H5NO2S
reactant | sodium bicarbonate | 10.2 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 683 ml | CN(C=O)C | C3H7NO
solvent | water | 137 ml | O | H2O
solvent | water | 2 liters | O | H2O
solvent | ethyl acetate | 0.8 liter | C(C)(=O)OCC | C4H8O2
product | N-t-butoxycarbonyl-S-[2-nitro-1-(2-thienyl)ethyl]-L-cysteine | 129 g | C(C)(C)(C)OC(=O)N[C@@H](CSC(C[N+](=O)[O-])C=1SC=CC1)C(=O)O | C14H20N2O6S2
